US08008322B2
2-Hydrazino-4-iodonicotinonitrile
To a solution of 1.2 g of 2-fluoro-4-iodonicotinonitrile in 20 mL of MeOH at 20° C. are added 2.4 mL of hydrazine hydrate. The yellow suspension is stirred for 20 minutes at 20° C. and is then filtered. The precipitate is washed with methanol to give, after drying under vacuum, 947 mg of a white powder of 2-hydrazino-4-iodonicotinonitrile.

reactant | 2-fluoro-4-iodonicotinonitrile | 1.2 g | FC1=C(C#N)C(=CC=N1)I | C6H2FIN2
reactant | hydrazine hydrate | 2.4 mL | O.NN
solvent | MeOH | 20 mL | CO | CH4O
product | 2-Hydrazino-4-iodonicotinonitrile | N(N)C1=C(C#N)C(=CC=N1)I | C6H5IN4
